US05414126
(1st step): To a mixture of 51.6 g of 4-phenylcyclohexane, 111.5 g of phenol and 65.7 g of calcium chloride, 24.7 ml of concentrated hydrochloric acid was slowly added dropwise by vigorous stirring of the mixture at room temperature. Then, the mixture was stirred for eight hours and left for more 168 hours at room temperature. 0.3 liters of warm water and one liter of ethyl acetate were added to the mixture to dissolve by heating, and the mixture was washed with a saturated sodium chloride solution (warm water of 40°-50° C. was used). After drying with MgSO4, the mixture was filtered and concentrated. The resultant concentrate was recrystallized with toluene to obtain 64.9 g of white 1,1-bis(4-hydroxyphenyl)-4-phenylcyclohexane. The melting point was 262.1°-263.3° C.

reactant | 4-phenylcyclohexane | 51.6 g | C1(=CC=CC=C1)C1CCCCC1 | C12H16
reactant | phenol | 111.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | calcium chloride | 65.7 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 24.7 ml | Cl | ClH
reactant | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
solvent | water | 0.3 liters | O | H2O
product | 1,1-bis(4-hydroxyphenyl)-4-phenylcyclohexane | 64.9 g | OC1=CC=C(C=C1)C1(CCC(CC1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C24H24O2
